US09085570B2
A solution of methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (3.1 g, 11.70 mmol, 1.00 equiv), p-cresol (2.0 g, 18.52 mmol, 1.58 equiv), Cs2CO3 (4.5 g, 13.80 mmol, 1.18 equiv) in N,N-dimethylformamide (60 mL) was stirred under nitrogen overnight at 50° C. The resulting solution was diluted with 100 mL of water and extracted with 3×100 mL of ethyl acetate. The combined organic layers was washed with 3×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 3.7 g (94%) of methyl 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)benzoate as a yellow solid. LC-MS: (ES, m/z): 379 [M+CH3CN+H]+, 338 [M+H]+, 271, 230, 203, 146, 91.

reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 11.70 mmol, 3.1 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | p-cresol | 18.52 mmol, 2.0 g, 1.58 equiv | C1=CC(=CC=C1O)C | C7H8O
reactant | Cs2CO3 | 13.80 mmol, 4.5 g, 1.18 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | methyl 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)benzoate | 3.7 g, 94% | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)COC1=CC=C(C=C1)C | C20H19NO4
